US06046195
(6S,5R)-7-(tert-Butoxycarbonyl)-3-(trifluoromethylsulfonyloxy)-6-phenyl-7-aza-1-oxa-spiro[4.5]dec-3-ene
To a cooled (-80° C.) solution of 1 M sodium hexamethyldisilazide (0.38 ml, 0.38 mmol) in THF was added a solution of (6S,5R)-7-(tert-butoxycarbonyl)-3-keto-6-phenyl-7-aza-1-oxa-spiro[4.5]decane (0.105 mg, 0.319 mmol; Desc.4) in THF (3 ml). The solution was stirred for 1 hour at -80° C. and a solution of 2-[N,N-bis(trifluoromethylsulphonyl)amino]-5-chloropyridine (0.163 g, 0.415 mmol) in THF (3 ml) was added. The solution was stirred at -80° C. for 30 minutes then at room temperature for 30 minutes before being quenched by addition of sat. aq. ammonium chloride solution and ethyl acetate. The dried (MgSO4) organic phase was purified by chromatography on silica gel eluting with hexane containing increasing proportions of ethyl acetate between 0% to 5%. Evaporation of the fractions gave the title compound. MS (ES+) m/z 464 (M+H), 364 (M+2H-tBuOCO--), 408 (M+2H-tBu). 1H NMR (360 MHz, CDCl3) δ 7.4 (2H, d, J 7.3 Hz), 7.3-7.22 (3H, m), 6.01 (1H, t, J 2.13 Hz), 5.13 (1H, s) 4.56 and 4.26 (2H, ABdd, J 12.4 Hz and 1.97 Hz), 4.10 (1H, dt, J 12.6 Hz and 4.22 Hz), 3.00 (1H, m), 2.28-2.04 (2H, m) 1,.88-1.76 (2H, m), 1.37 (9H, s).

reactant | sodium hexamethyldisilazide | 0.38 mmol, 1 M, 0.38 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | (6S,5R)-7-(tert-butoxycarbonyl)-3-keto-6-phenyl-7-aza-1-oxa-spiro[4.5]decane | 0.319 mmol, 0.105 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@]2(CC(CO2)=O)CCC1)C1=CC=CC=C1 | C19H25NO4
reactant | 2-[N,N-bis(trifluoromethylsulphonyl)amino]-5-chloropyridine | 0.415 mmol, 0.163 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (6S,5R)-7-(tert-Butoxycarbonyl)-3-(trifluoromethylsulfonyloxy)-6-phenyl-7-aza-1-oxa-spiro[4.5]dec-3-ene | C(C)(C)(C)OC(=O)N1[C@H]([C@]2(C=C(CO2)OS(=O)(=O)C(F)(F)F)CCC1)C1=CC=CC=C1 | C20H24F3NO6S
